US07598387B2
Preparation of 4-(2-(N-methyl-N-(2-pyridyl)aminoethoxy)benzaldehyde
2-(N-methyl-N-(2-pyridyl)amino ethanol (50 gms, 0.32M) and 4-fluoro benzaldehyde (68 gms, 0.547M) were dissolved in DMF (500 ml) and sodium hydride (2 gms) was added. The reaction mass was stirred for 15 minutes and the temperature was maintained below 35° C. Sodium hydride (4 gms) was added again and the reaction mass stirred for 15 minutes. Subsequently 8 and 10 gms of sodium hydride were sequentially added at 15 minute intervals. The reaction was monitored by HPLC. After completion of reaction, the reaction mass was cooled to 5° C., and methanol (30 ml) was added slowly. The reaction mass was then quenched into water (approx 21 trs) and extracted with ethyl acetate (4×500 ml). The combined organic layers were washed with water (6×500 ml). The organic layer was dried over sodium sulphate and concentrated to obtain the title compound as an oil (105 gms, 84% HPLC purity).

reactant | N-methyl-N-(2-pyridyl)amino ethanol | 0.32M, 50 gms | CN(C1=NC=CC=C1)C(C)O | C8H12N2O
reactant | 4-fluoro benzaldehyde | 0.547M, 68 gms | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium hydride | 2 gms | [H-].[Na+]
reactant | Sodium hydride | 4 gms | [H-].[Na+]
reactant | sodium hydride | 10 gms | [H-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 2-(N-methyl-N-(2-pyridyl)aminoethoxy)benzaldehyde | 105 gms, 84% | CN(C1=NC=CC=C1)CCOC1=C(C=O)C=CC=C1 | C15H16N2O2
